US06933304B2
4-(1,3-Dioxolan-2-yl)butanenitrile (6.26 g; 0.0443 moles) was dissolved in a mixture of acetone (50 mL) and water (50 mL) under nitrogen. p-Toluene-sulfonic acid (843 mg; 0.00443 moles) was added followed by sodium periodate (9.67 g; 0.0452 moles) and the mixture was heated at 40° C. for 32 hours with magnetic stirring. The mixture was filtered, washing the filter cake with ethyl acetate (100 mL). The filtrate was mixed with aqueous sodium bicarbonate solution (50 mL) and the phases were separated. The aqueous phase was extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over sodium sulfate and filtered. Removal of solvent under vacuum gave the crude product (5-oxopentanenitrile). This material was dissolved in methylene chloride (150 mL). 2-Aminopyridine (4.17 g; 0.0443 moles) was added and the reaction mixture was magnetically stirred under nitrogen for 30 minutes. Sodium triacetoxyborohydride (14.1 g; 0.0665 moles) was added and the reaction mixture was stirred for 4 hours. The reaction mixture was added to aqueous sodium bicarbonate solution (50 mL) and the phases were separated. The aqueous phase was extracted with ethyl acetate (4×50 mL). The combined organic phases were dried over sodium sulfate and filtered. Removal of solvent under vacuum gave crude product which was purified by chromatography on silica gel, eluting with methylene chloride followed by methylene chloride/acetone (10:1). Removal of solvent under vacuum gave the product, 5-(pyridin-2-ylamino)pentane-nitrile, as an off white solid (4.30 g; 55%). 1H NMR (CDCl3) δ 8.05-8.10 (1H, m), 7.38-7.43 (1H, m), 6.55-6.60 (1H, m), 6.38 (1H, d, J=8.5 Hz), 4.38-4.58 (1H, br), 3.30-3.40 (2H, m), 2.35-2.45 (2H, m), 1.70-1.85 (4H, m).

reactant | 4-(1,3-Dioxolan-2-yl)butanenitrile | 0.0443 moles, 6.26 g | O1C(OCC1)CCCC#N | C7H11NO2
reactant | p-Toluene-sulfonic acid | 0.00443 moles, 843 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium periodate | 0.0452 moles, 9.67 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-Aminopyridine | 0.0443 moles, 4.17 g | NC1=NC=CC=C1 | C5H6N2
reactant | Sodium triacetoxyborohydride | 0.0665 moles, 14.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-(pyridin-2-ylamino)pentane-nitrile | N1=C(C=CC=C1)NCCCCC#N | C10H13N3
